US07902401B2
tert-Butyl {(1R)-2-(benzylamino)-1-[(difluoromethoxy)methyl]-2-oxoethyl}carbamate (340 mg, 0.987 mmol) was stirred with trifluoroacetic acid (2.25 mL) and dichloromethane (2.5 mL) in an ice bath for an hour. The reaction mixture was concentrated, stirred with acetic anhydride-pyridine (1:1, 5.8 mL) at room temperature for 30 minutes and then diluted with ethyl acetate, washed with saturated sodium bicarbonate, brine, 0.5N HCl and brine again. The organic layer was dried, concentrated, and triturated with diethyl ether to give (2R)-2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide (230.5 mg, 77.2%) as a white solid. Mp: 186.9° C. 1H NMR (300 MHz, DMSO-d6): δ(ppm) 8.60 (t, 1H), 8.30 (d, 1H), 7.28-7.45 (m, 5H), 6.67 (wt, 1H), 4.58 (m, 1H), 4.40 (d, 2H), 3.98 (d, 2H) and 1.88 (s, 3H).

reactant | tert-Butyl {(1R)-2-(benzylamino)-1-[(difluoromethoxy)methyl]-2-oxoethyl}carbamate | 0.987 mmol, 340 mg | C(C1=CC=CC=C1)NC([C@@H](COC(F)F)NC(OC(C)(C)C)=O)=O | C16H22F2N2O4
reactant | trifluoroacetic acid | 2.25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | (2R)-2-(acetylamino)-N-benzyl-3-(difluoromethoxy)propanamide | 230.5 mg, 77.2% | C(C)(=O)N[C@@H](C(=O)NCC1=CC=CC=C1)COC(F)F | C13H16F2N2O3
